US04474794
Preparation of 2-(2-Dimethylaminomethyl-4-thiazolylmethylthio)ethylamine
A reaction mixture was prepared from 18.8 g. of 2-dimethylaminomethyl-4-thiazolemethanol, 12.8 g. of 2-aminoethanethiol hydrochloride (cysteamine hydrocloride) and 160 ml. of 48% aqueous hydrobromic acid. The reaction mixture was stirred at about 100° C. for about 11 hours. The volatile constituents were removed in vacuo on a rotary evaporator. Water was added and the volatile constituents again removed by evaporation. The resulting residue, comprising 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine trihydrobromide formed in the above reaction, was dissolved in ethanol. The ethanol was evaporated and the resulting residue again dissolved in ethanol. Evaporation of the ethanol yielded a hygroscopic residue which was recrystallized from a methanol-ethyl acetate solvent mixture. 2-(2-Dimethylaminomethyl-4-thiazolylmethylthio)ethylamine trihydrobromide thus prepared had the following physical characteristics:

reactant | 2-dimethylaminomethyl-4-thiazolemethanol | CN(C)CC=1SC=C(N1)CO | C7H12N2OS
reactant | 2-aminoethanethiol hydrochloride | Cl.NCCS
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-Dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
